2155-02-12 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 no events o/n
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2155-2-12**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-12**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 117 (117 - 140) bpm
   BP: 166/102(116) {162/101(116) - 174/112(126)} mmHg
   RR: 36 (27 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
             43 mL
   PO:
             TF:
   IVF:
   43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    360 mL
   Urine:
   360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -317 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Cachectic Caucasian Male lying down in bed
   HEENT: OS PERRL, Left side of face notable for scar repair.
   CARDIAC: Tachycardiac (120s), Regular rhythm. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1792**].
   LUNGS: Diminished over LLL otherwise CTAB
   ABDOMEN: NABS, Scaphoid, Soft, NT, ND. No HSM
   EXTREMITIES: No edema noted.
   NEURO: Pt non-verbal, arousable only to painful stimuli with eye
   opening
   PSYCH: arousable but non-[**Last Name (un) **] this AMl, however pt is occasionally
   verbal with nurses.
   Labs / Radiology
   260 K/uL
   11.0 g/dL
   33.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2155-2-12**]  05:36 AM
   WBC
   9.8
   Hct
   33.1
   Plt
   260
   Assessment and Plan
   ##. PNA: One review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc and Cefepime and
   discharged on a course of Augementin x 10 days. Will continue on
   Ceftriaxone, Levofloxacin for CAP, Vancomycin for HAP given recent
   hospitalizations.
   .
   ##. Altered Mental Status: Ddx include Status Epilepticus, delirium,
   meningitis, intracranial disease. On review of pt's mentation prior to
   his AMA discharge acute delirium from his underlying PNA is high on the
   differential, and was likely only partially treated. His waxing and
   [**Doctor Last Name 42**] non-verbal status speaks for this. However his presentation this
   AM is quite different and there is concern for central sources
   including seizure and intracranial disease.  We must r/o viral
   meningitises/encephalitises.  Will f/u on LP labs, HSV PCR. Pt was
   noted to have auditory hallucinations which is interesting given the
   ?mass in his temporal lobe. Neurology were consulted in the ED and
   recommended infectious work up, MRI/MRA, U/A, avoid psychotrophics.
   Something clearly driving hyperventilation, as patient is alkalemic on
   ABG with relative respiratory alkalosis.
   - EEG ASAP while still altered
   - will check MRI/MRA brain w/ and w/o contrast
   - will check U/A, LFTs
   - will avoid psychotropics, consider seroquel
   - f/u LP, add on HSV, HHV-6, JCV, EBV
   - TSH, B12, RPR, Folate
   - given LP is negative will d/c Ceftriaxone
   - treat underlying PNA
 Vanc, Cefepime given acute illness, frequent
   hospitalizations.
   - frequent ABG
s, prepare for possible intubation.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation. Will
   start on Labetalol.
   - labetalol 10mg q6h for now
   - ?autonomic dysregulation versus infection
   .
   ##. FEN: NPO for now, S&S when mentation improves.
   .
   ##. CODE STATUS: Confirmed full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-2-12**] 02:00 AM
   22 Gauge - [**2155-2-12**] 03:15 AM
   Prophylaxis:
   DVT: SC Heparin TID
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-13 07:12:00 Physician Resident Progress Note
TITLE:
   TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2155-2-12**]:
   - tachypnic to 50s, intubated electively for MRI (had to be nasally b/c
   has radiation damage to jaw)
   - dropped pressures at MRI (SBP 60s despite IVF), needed pressors
   - EEG diffuse slowing, no e/o status epilepticus
   - sent toxo titers
   - will attempt repeat MRI
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-2-12**] 06:00 AM
   Vancomycin - [**2155-2-12**] 04:50 PM
   Acyclovir - [**2155-2-13**] 12:00 AM
   Cefipime - [**2155-2-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-12**] 11:00 PM
   Labetalol - [**2155-2-13**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-13**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 81 (81 - 128) bpm
   BP: 137/83(104) {84/50(59) - 153/99(138)} mmHg
   RR: 20 (16 - 48) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,948 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  2,948 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    565 mL
   Urine:
                                                                  1,010 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,938 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/38/225/27/6
   Ve: 9.1 L/min
   PaO2 / FiO2: 450
   Physical Examination
   GENERAL: Cachectic Caucasian Male lying down in bed, nasally intubated,
   sedated
   HEENT: OS PERRL, Left side of face notable for scar repair.
   CARDIAC: Tachycardiac (90s), Regular rhythm. Normal S1, S2. No murmurs,
   rubs or [**Last Name (un) 1792**].
   LUNGS: Diminished over LLL otherwise CTAB
   ABDOMEN: NABS, Scaphoid, Soft, NT, ND. No HSM
   EXTREMITIES: No edema noted.
   NEURO: Pt non-verbal, arousable only to painful stimuli with eye
   opening
   PSYCH: sedated
   Labs / Radiology
   139 K/uL
   9.1 g/dL
   108 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   27 mg/dL
   93 mEq/L
   128 mEq/L
   27.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2155-2-12**]  05:36 AM
                             [**2155-2-12**]  09:35 AM
                             [**2155-2-12**]  02:21 PM
                             [**2155-2-13**]  03:45 AM
                             [**2155-2-13**]  05:15 AM
   WBC
   9.8
   8.7
   Hct
   33.1
   27.8
   Plt
   260
   139
   Cr
   1.0
   1.3
   TCO2
   36
   33
   31
   Glucose
   63
   72
   108
   Other labs: PT / PTT / INR:13.5/24.9/1.2, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Lactic Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   .
   ##. Altered Mental Status: Ddx include Seizure less likely status as no
   seizure activity on EEG, delirium, viral meningitis, or intracranial
   disease. This presentation seems to be acute on chronic AMS.  We must
   r/o viral meningitises/encephalitises.  Will f/u on LP labs, HSV PCR.
   Pt was noted to have auditory hallucinations which is interesting given
   the ?mass in his temporal lobe. Unfortunately the his tachypnea
   yesterday lead to an early morning intubation.
   Delerium:
          - continue ABX for PNA as below
          - will check U/A (-), LFTs
 WNL, Alk phos is trending down
   today
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
          - continue Acyclovir
   Seizure:  No active seizure activity on EEG making status less likely,
   it is possible that he is intermittently seizing though.
            - EEG
showed only diffuse slowing
   Intracranial Disease Process:
            - f/u final read of MRI
   Toxic Metabolic:
            - TSH is 7, could be sick euthyroid will check other levels
            - B12 WNL
            - RPR is pending
   .
   Increased WOB/Respiratory faillure:  Patient intubated yesterday for
   tachypnea, likely impending respiratory faillure.  Patient currently
   alkalemic with elevated pO2 on current vent settings.
   -turn down O2, decrease rate as we believe patient is a chronic CO2
   retainer.  This will also help us optimize for extubation.  Would keep
   patient ventilated as we [**Male First Name (un) **]
t yet have a source for underlying
   tachypnea which lead to intubation in the first place.
   .
   Hyponatremia/ARF
 Would lump these problems as urine output appears to
   have slowed to 30-40 cc/hr,
   Bump in BUN relative to CRE, and hyponatremia, suspect pre-renal
   azotemia and hypovolemic hyponatremia.
   - bolus 1L NS
   - check urine lytes
   - nutrition consult re-tube feeds
   .
   ##. PNA: One review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc, Cefepime,
   levaquin currently.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation. Will
   start on Labetalol.
   - labetalol 10mg q6h for now
   - ?autonomic dysregulation versus infection
   .
   ##. FEN: tube feeding consult in, replete PRN
   .
   ##. CODE STATUS: Confirmed full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT: P.Boots
 heparin allergy listed
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-14 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - initial MR head suggested Toxo, also post-radiation change,
   superimposed infection, metastatic disease or a graft-versus-host
   disease, thus held off empiric therapy for toxomplasmosis; ? glioma
   - problems include hyponatremia, drop in plts
   - per wife, pt does not take lorazepam at home
   - sputum cx -> GRAM STAIN [**2155-2-13**]
         <10 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST ? [**Female First Name (un) **] vs
   Cryptococcus
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   - Neurosurg, Neuro-onc consulted
   - vent changed to CPAP, tolerated well
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-2-13**] 10:33 AM
   Cefipime - [**2155-2-13**] 02:30 PM
   Vancomycin - [**2155-2-13**] 07:54 PM
   Acyclovir - [**2155-2-14**] 12:29 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Labetalol - [**2155-2-13**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-14**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 102 (83 - 113) bpm
   BP: 130/71(92) {112/61(79) - 178/98(130)} mmHg
   RR: 35 (19 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,812 mL
                                                                    849 mL
   PO:
             TF:
   IVF:
                                                                  2,812 mL
                                                                    849 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    310 mL
   Urine:
                                                                  1,145 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Other
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 302 (300 - 366) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 190
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/52/161/27/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   9.0 g/dL
   85 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   26 mg/dL
   95 mEq/L
   128 mEq/L
   28.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2155-2-12**]  05:36 AM
                             [**2155-2-12**]  09:35 AM
                             [**2155-2-12**]  02:21 PM
                             [**2155-2-13**]  03:45 AM
                             [**2155-2-13**]  05:15 AM
                             [**2155-2-13**]  12:18 PM
                             [**2155-2-13**]  04:37 PM
                             [**2155-2-14**]  05:33 AM
                             [**2155-2-14**]  05:55 AM
   WBC
   9.8
   8.7
   9.2
   Hct
   33.1
   27.8
   28.2
   Plt
   [**Telephone/Fax (3) 11336**]
   Cr
   1.0
   1.3
   1.1
   1.2
   TCO2
   36
   33
   31
   30
   31
   Glucose
   63
   72
   108
   90
   85
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   .
   ##. Altered Mental Status: Ddx still includes intermittent seizure vs.
   intracranial disease (glioma vs toxo vs other) vs. delirium. This
   presentation seems to be acute on chronic AMS.  We must r/o viral
   meningitises/encephalitises.  Will f/u on LP labs, HSV PCR. Pt was
   noted to have auditory hallucinations which is interesting given the
   ?mass in his temporal lobe.
   Delerium:
          - continue ABX for PNA as below
          - IV Vanc, levaquin
 d/c Cefepime
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
          - continue Acyclovir
   Seizure:  No active seizure activity on EEG making status less likely,
   it is possible that he is intermittently seizing though.
            - Will discuss 24 hour EEG with Neuro
   Intracranial Disease Process:
            - Neurosurgery consulted, likely to biopsy today (Dr. [**First Name (STitle) 39**]?)
    -1. Heterogeneous signal and enhancement with associated mass
effect within the right frontotemporal lobe, similar to that seen
on the recent CT scan and outside neck MRI. This finding may
reflect post-radiation change, though the possibility for
superimposed infection, metastatic disease or even a
graft-versus-host disease cannot be excluded.
2. Punctate subacute hemorrhage within the posterior aspect of
the left superior temporal gyrus associated with additional areas
of hemosiderin staining throughout the subarachnoid space
bilaterally with no hydrocephalus
   Toxic Metabolic:
            - TSH is 7, could be sick euthyroid will check other levels
            - B12 WNL
            - RPR is pending
   .
   Increased WOB/Respiratory faillure:  Patient intubated yesterday for
   tachypnea, likely impending respiratory faillure.  Patient slightly
   acidemic with pCO2 of 50, would be content with these settings as he
   likely lives close to here.
             - would leave patient intubated pending decision on biopsy
   today
   .
   Hyponatremia/ARF
 Urine lytes pre-renal, responded to IVF today.  Bump
   in BUN relative to CRE, and hyponatremia, suspect pre-renal azotemia
   and hypovolemic hyponatremia.
   - bolus 1L NS
   - check urine lytes
   - Check PM lytes
   .
   ##. PNA: One review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc, Cefepime,
   levaquin currently.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation. Will
   start on Labetalol.
   - labetalol 10mg q6h for now
   - ?autonomic dysregulation versus infection
   .
   ##. FEN: tube feeding consult in, replete PRN
   .
   ##. CODE STATUS: Confirmed full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-15 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2154-2-14**]:
   - Lots of conversations between various teams:  As it stands now, [**Location **] MRI is down for ASL MRI.  If the water is fixed tomorrow we need
   to page the [**Hospital Ward Name 247**] MRI tech -[**Numeric Identifier 11346**] and [**First Name8 (NamePattern2) 831**] [**Last Name (NamePattern1) 11347**]- [**Numeric Identifier 11348**] to get
   these studies done.
   - Dr. [**First Name (STitle) **] (NSG) to discuss patient at tumor board on Monday, possible
   bx, Tuesday or wednesday.
   - Dr. [**Last Name (STitle) 11349**] preference is to extubate with anesthesia on hand durring
   the day, after the MRI, as he does not want pt to remain intubated
   until tuesday with underlying sinus disease.
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-2-13**] 02:30 PM
   Vancomycin - [**2155-2-13**] 07:54 PM
   Levofloxacin - [**2155-2-14**] 10:30 AM
   Acyclovir - [**2155-2-15**] 12:00 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2155-2-14**] 07:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-15**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 93 (84 - 104) bpm
   BP: 141/77(102) {69/39(50) - 142/77(102)} mmHg
   RR: 25 (9 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  4,681 mL
                                                                    453 mL
   PO:
             TF:
   IVF:
                                                                  4,681 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                    737 mL
                                                                    160 mL
   Urine:
                                                                    737 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,944 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (219 - 340) mL
   PS : 16 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 270
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.38/48/163/26/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 408
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   9.0 g/dL
   81 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   130 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2155-2-13**]  03:45 AM
                             [**2155-2-13**]  05:15 AM
                             [**2155-2-13**]  12:18 PM
                             [**2155-2-13**]  04:37 PM
                             [**2155-2-14**]  05:33 AM
                             [**2155-2-14**]  05:55 AM
                             [**2155-2-14**]  06:03 PM
                             [**2155-2-14**]  06:11 PM
                             [**2155-2-15**]  06:10 AM
                             [**2155-2-15**]  06:29 AM
   WBC
   8.7
   9.2
   7.4
   Hct
   27.8
   28.2
   27.5
   Plt
   139
   155
   145
   Cr
   1.3
   1.1
   1.2
   1.0
   1.0
   TCO2
   31
   30
   31
   30
   29
   Glucose
   108
   90
   85
   91
   81
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   .
   ##. Altered Mental Status: Ddx still includes intermittent seizure vs.
   intracranial disease (glioma vs toxo vs other) vs. delirium. This
   presentation seems to be acute on chronic AMS.  We must r/o viral
   meningitises/encephalitises.  Will f/u on LP labs, HSV PCR. Pt was
   noted to have auditory hallucinations which is interesting given the
   ?mass in his temporal lobe.
   Delerium:
          - continue ABX for PNA as below
          - IV Vanc(AM trough looked good, restarting at 1gm q24hr),
   levaquin
 d/c Cefepime
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 nothing back yet
          - all culture data is negative so far
          - continue Acyclovir
   Seizure:  No active seizure activity on EEG making status less likely,
   it is possible that he is intermittently seizing though.
            - Phosfenytoin loaded in anticipation of Neurosurgical
   procedure.
   Intracranial Disease Process:
            - Neurosurgery consulted, likely to biopsy Tuesday (Dr. [**First Name (STitle) **]
            - Plan is as follows -> remain intubated, ASL MRI tomorrow,
   extubate if clinically feasible -> Dr. [**First Name (STitle) **] to present at tumor board
   on Monday, possible Bx on Tuesday.
    .
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Increased WOB/Respiratory faillure:  Patient intubated for tachypnea,
   likely impending respiratory faillure.  .  Would attempt to get patient
   back to hypercapneic baseline, as wont succeed in extubation without.
             - would leave patient intubated pending MRI
             - would not prolong nasal intubation given underlying sinus
   disease
   .
   Hyponatremia/ARF
 Urine lytes pre-renal, responded to IVF today.  Bump
   in BUN relative to CRE, and hyponatremia, suspect pre-renal azotemia
   and hypovolemic hyponatremia.
   - Continue prn NS boluses
   - check urine lytes
   - Check PM lytes
   .
   ##. PNA: One review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc, Cefepime,
   levaquin currently.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation. Will
   start on Labetalol.
   - labetalol 10mg q6h for now
   - ?autonomic dysregulation versus infection
   .
   ##. FEN: tube feeding consult in, replete PRN -?PEG at time procedure
   .
   ##. CODE STATUS: Confirmed full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT:  P.Boots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-15 12:00:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, GVHD, BOOP, pneumonia, acute
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on ventilator with 40% FIO2 and PSV.
   Evaluation for CNS lesions still pending. Anti-epileptics started.
   Afebrile.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-2-13**] 02:30 PM
   Levofloxacin - [**2155-2-14**] 10:30 AM
   Acyclovir - [**2155-2-15**] 08:00 AM
   Vancomycin - [**2155-2-15**] 09:30 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2155-2-15**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-15**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 91 (84 - 101) bpm
   BP: 126/72(91) {69/39(50) - 141/77(102)} mmHg
   RR: 20 (9 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  4,681 mL
                                                                  1,194 mL
   PO:
             TF:
   IVF:
                                                                  4,681 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                    737 mL
                                                                    400 mL
   Urine:
                                                                    737 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,944 mL
                                                                    794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (219 - 388) mL
   PS : 16 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 270
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.38/48/163/26/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Pinpoint pupils
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Loud P2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: No spontaneous movement,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   145 K/uL
   81 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   130 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2155-2-13**]  03:45 AM
                             [**2155-2-13**]  05:15 AM
                             [**2155-2-13**]  12:18 PM
                             [**2155-2-13**]  04:37 PM
                             [**2155-2-14**]  05:33 AM
                             [**2155-2-14**]  05:55 AM
                             [**2155-2-14**]  06:03 PM
                             [**2155-2-14**]  06:11 PM
                             [**2155-2-15**]  06:10 AM
                             [**2155-2-15**]  06:29 AM
   WBC
   8.7
   9.2
   7.4
   Hct
   27.8
   28.2
   27.5
   Plt
   139
   155
   145
   Cr
   1.3
   1.1
   1.2
   1.0
   1.0
   TCO2
   31
   30
   31
   30
   29
   Glucose
   108
   90
   85
   91
   81
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR: retrocardiac density, Blunted costophrenic angle
   left>right
   Assessment and Plan
 TACHYCARDIA, OTHER
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 HYPOXEMIA
 DELIRIUM / CONFUSION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   ANEMIA
   HYPONATREMIA
   ============================
   Altered mental status possibly due to combination of CNS lesions and
   seizures. Patient being treated for encephalitis, although CSF without
   cells. Due for additional MRI to further characterize the CNS lesions.
   Patient probably has a post-hypercapnic metabolic alkalosis now.
   Baseline bicarb last admission was 42; he has likely been
   overventilated from baseline status and is likely not to be able to
   sustain spontaneous ventilation at this level of PaCO2. Following MRI
   today, will stop propofol and assess RSBI. If he fails, I would then
   resedate and ventilate him such that PaCO2 is in low 50's to achieve pH
   less than 7.35; as bicarb comes up, further reduce ventilation and
   achieve higher PaCO2.
   Nutrition remains a problem because of difficulty getting access for
   enteral or IV nutrition. Will discuss possibility of an OG tube with
   Dr. [**First Name (STitle) 1422**].
   Hyponatremia stable. If it drops assess meds for free water.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-02-16 07:46:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2155-2-15**] 11:45 AM
   - got ASL MRI
   - had hypotensive episode after receiving IV labetalol, propofol and IV
   Bactrim around same time, SBP dropped to 30s, came back quickly with
   IVF wide open and pressors on for 2 minutes only
   - PSV trial --> agitated, hypoxic --> back on AC
   - on AC 7.43/43/136, pc02 goal 50's so decreased RR
   - ENT attg Dr. [**Last Name (STitle) 11353**] emailed saying OGT OK, but could not pass
   (pt kept biting even though increased sedation)
   - received IVF to maintain UOP
   - no neurosurg recs
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-2-13**] 02:30 PM
   Vancomycin - [**2155-2-15**] 09:30 AM
   Levofloxacin - [**2155-2-15**] 10:26 AM
   Bactrim (SMX/TMP) - [**2155-2-16**] 12:19 AM
   Acyclovir - [**2155-2-16**] 12:19 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2155-2-15**] 09:54 AM
   Labetalol - [**2155-2-15**] 10:25 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2155-2-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 93 (72 - 96) bpm
   BP: 109/63(79) {38/22(28) - 142/80(334)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  4,943 mL
                                                                  1,438 mL
   PO:
             TF:
   IVF:
                                                                  4,943 mL
                                                                  1,438 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    200 mL
   Urine:
                                                                    660 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,283 mL
                                                                  1,238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 388) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
[**2155-2-13**] 10:37 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2155-2-13**]):
      <10 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Final [**2155-2-15**]):
      SPARSE GROWTH Commensal Respiratory Flora.
      YEAST.    MODERATE GROWTH.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   ACID FAST SMEAR (Final [**2155-2-14**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.0 g/dL
   116 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   131 mEq/L
   27.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2155-2-13**]  04:37 PM
                             [**2155-2-14**]  05:33 AM
                             [**2155-2-14**]  05:55 AM
                             [**2155-2-14**]  06:03 PM
                             [**2155-2-14**]  06:11 PM
                             [**2155-2-15**]  06:10 AM
                             [**2155-2-15**]  06:29 AM
                             [**2155-2-15**]  06:13 PM
                             [**2155-2-16**]  12:08 AM
                             [**2155-2-16**]  03:43 AM
   WBC
   9.2
   7.4
   9.4
   Hct
   28.2
   27.5
   27.8
   Plt
   155
   145
   151
   Cr
   1.1
   1.2
   1.0
   1.0
   1.0
   TCO2
   31
   30
   29
   25
   24
   Glucose
   90
   85
   91
   81
   116
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.8
   mg/dL
   Imaging: Study limited due to lack of IV contrast and technical issues.
   No large obvious area of increased signal on the ASL to sugest
   increased
   perfusion- however, limited due to low resoluton.
   MRS: Low NAA in the right frontal and temporal lobe areas sampled-
   cannot
   exlcude tumor.
   Consider correlation wtih PET and Biopsy.
   1. Heterogeneous signal and enhancement with associated mass effect
   within
   the right frontotemporal lobe -partly characterized on the recent CT
   scan and
   outside neck MRI from [**Month (only) 2605**]. While the above findings could reflect
   post-radiation change as previously suggested, consideration should be
   given
   to the possibility for radiation induced neoplasm, related to
   CML/sarcoma of
   the face/denovo or even graft-versus-host disease. Further
   characterization
   is suggested, which could take the form of a Thallium/PET scan and/or
   biopsy.
   Infection is less likely given it's identification on MR Neck done
   about 6
   months earlier.
   2. Punctate subacute hemorrhage within the posterior aspect of the left
   superior temporal gyrus associated with additional areas of hemosiderin
   staining throughout the subarachnoid space bilaterally with no
   hydrocephalus.
   A hemorrhagic focus, cavernoma are likely; metastatic or infectious
   lesion
   remains possible despite the lack of solid enhancement, however less
   likely.
   Attention on follow up can be considered.
   3. Extensive maxillary sinus and bil. mastoid air cell disease
   bilaterally
   with air-fluid levels as well as partial visualization of the
   post-surgical
   changes within the right face.
   4. Patent major intracranial arteries without flow limiting stenosis,
   occlusion, aneurysm more than 3mm within the resolution of MRA
   Microbiology: [**2155-2-13**] 10:37 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2155-2-13**]):
         <10 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Final [**2155-2-15**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         YEAST.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
      ACID FAST SMEAR (Final [**2155-2-14**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
   Toxo (-)
   fungal pending
   Assessment and Plan
   .
   ##. Altered Mental Status: Ddx still includes intermittent seizure vs.
   intracranial disease (glioma vs toxo vs other) vs. delirium. This
   presentation seems to be acute on chronic AMS.  We must r/o viral
   meningitises/encephalitises.  Will f/u on LP labs, HSV PCR. Pt was
   noted to have auditory hallucinations which is interesting given the
   ?mass in his temporal lobe.
   Delerium:
          - continue ABX for PNA as below
          - IV Vanc(AM trough looked good, restarting at 1gm q24hr),
   levaquin
 d/c Cefepime
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 nothing back yet
          - all culture data is negative so far
          - continue Acyclovir
   Seizure:  No active seizure activity on EEG making status less likely,
   it is possible that he is intermittently seizing though.
            - Phosfenytoin loaded in anticipation of Neurosurgical
   procedure.
   Intracranial Disease Process:
            - Neurosurgery consulted, likely to biopsy Tuesday (Dr. [**First Name (STitle) **]
            - Plan is as follows -> remain intubated, ASL MRI tomorrow,
   extubate if clinically feasible -> Dr. [**First Name (STitle) **] to present at tumor board
   on Monday, possible Bx on Tuesday.
    .
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Increased WOB/Respiratory faillure:  Patient intubated for tachypnea,
   likely impending respiratory faillure.  .  Would attempt to get patient
   back to hypercapneic baseline, as wont succeed in extubation without.
             - would leave patient intubated pending MRI
             - would not prolong nasal intubation given underlying sinus
   disease
   .
   Hyponatremia/ARF
 Urine lytes pre-renal, responded to IVF today.  Bump
   in BUN relative to CRE, and hyponatremia, suspect pre-renal azotemia
   and hypovolemic hyponatremia.
   - Continue prn NS boluses
   - check urine lytes
   - Check PM lytes
   .
   ##. PNA: One review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc, Cefepime,
   levaquin currently.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.  d/c
d labetalol in setting
   of hypotension.
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance.
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Will defer central venous access per Dr. [**First Name (STitle) 1422**]
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:   pantoprazole
   VAP:   vanc, levofloxacin
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**]

2155-02-16 11:14:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, respiratory failure, CNS mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had MRI yesterday; preliminary results not definitive.
   Team unable to place OG tube yesterday because patient biting.
   Increased sedation led to episode of hypotension.
   Patient placed on PSV this AM.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2155-2-15**] 11:45 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-2-13**] 02:30 PM
   Levofloxacin - [**2155-2-15**] 10:26 AM
   Bactrim (SMX/TMP) - [**2155-2-16**] 12:19 AM
   Acyclovir - [**2155-2-16**] 12:19 AM
   Vancomycin - [**2155-2-16**] 08:07 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Folic acid, phosphenytoin,chlorhexidiine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-16**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 88 (72 - 96) bpm
   BP: 95/57(72) {38/22(28) - 138/80(334)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  4,947 mL
                                                                  2,122 mL
   PO:
             TF:
   IVF:
                                                                  4,947 mL
                                                                  2,122 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    235 mL
   Urine:
                                                                    660 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,287 mL
                                                                  1,887 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 200 (200 - 300) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 141
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.18/71/124/24/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Agitated but appears
   to be interacting
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Loud P2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Not able to assess, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   151 K/uL
   116 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   131 mEq/L
   27.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2155-2-14**]  05:33 AM
                             [**2155-2-14**]  05:55 AM
                             [**2155-2-14**]  06:03 PM
                             [**2155-2-14**]  06:11 PM
                             [**2155-2-15**]  06:10 AM
                             [**2155-2-15**]  06:29 AM
                             [**2155-2-15**]  06:13 PM
                             [**2155-2-16**]  12:08 AM
                             [**2155-2-16**]  03:43 AM
                             [**2155-2-16**]  10:04 AM
   WBC
   9.2
   7.4
   9.4
   Hct
   28.2
   27.5
   27.8
   Plt
   155
   145
   151
   Cr
   1.2
   1.0
   1.0
   1.0
   TCO2
   31
   30
   29
   25
   24
   28
   Glucose
   85
   91
   81
   116
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.8
   mg/dL
   Imaging: CXR: basilar infiltrates persist.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 TACHYCARDIA, OTHER
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, CHRONIC
 HYPERTENSION, BENIGN
 HYPOTHYROIDISM
 HYPOXEMIA
 DELIRIUM / CONFUSION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   RESPIRATORY FAILURE, ACUTE
   ==========================
   Patient more awake with less propofol. Appears angry in response to
   questions (making gestures). MRI results pending; check with
   neurosurgery re: adequacy of the study. Continues on anti-epileptic.
   Vent changed to pressures support. With patient more awake, seems to be
   tolerating PSV 10/PEEP 5. O2 sats 100% on FIO2 0.4.  Aiming for PaCO2
   in 50's-60's range.
   Continues on antibiotics for possible pneumonia.
   Nutrition remains an issue. OG tube does not appear feasible. Will
   check with Dr. [**First Name (STitle) 1422**] re: preference for PIC tomorrow vs subclavian
   triple lumen for TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-2-12**] 03:15 AM
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-02-17 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per BMT, no indication for [**Last Name (LF) 2643**], [**First Name3 (LF) 178**] attempt to advance mid-line to
   PICC tomorrow
   - contact[**Name (NI) **] [**Name (NI) **] re: ASL MRI and quality of study, will need to
   discuss with Neuro-onc tomorrow, may need repeat with IV contrast
   - vent -> [**11-11**] all day, tolerated well, likely remain intubated pending
   possible biopsy
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-2-16**] 08:07 AM
   Levofloxacin - [**2155-2-16**] 10:30 AM
   Acyclovir - [**2155-2-16**] 11:30 PM
   Bactrim (SMX/TMP) - [**2155-2-16**] 11:45 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2155-2-16**] 01:20 PM
   Pantoprazole (Protonix) - [**2155-2-16**] 08:02 PM
   Fosphenytoin - [**2155-2-17**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-17**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 96 (88 - 102) bpm
   BP: 95/51(66) {85/46(61) - 130/68(89)} mmHg
   RR: 26 (21 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  4,761 mL
                                                                     43 mL
   PO:
             TF:
   IVF:
                                                                  4,761 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    260 mL
   Urine:
                                                                    765 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,996 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 314 (200 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 141
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.26/57/91.[**Numeric Identifier 96**]/25/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   8.6 g/dL
   88 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   20 mg/dL
   97 mEq/L
   126 mEq/L
   26.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2155-2-15**]  06:10 AM
                             [**2155-2-15**]  06:29 AM
                             [**2155-2-15**]  06:13 PM
                             [**2155-2-16**]  12:08 AM
                             [**2155-2-16**]  03:43 AM
                             [**2155-2-16**]  10:04 AM
                             [**2155-2-16**]  12:37 PM
                             [**2155-2-16**]  02:21 PM
                             [**2155-2-17**]  04:55 AM
                             [**2155-2-17**]  05:07 AM
   WBC
   7.4
   9.4
   9.7
   Hct
   27.5
   27.8
   26.8
   Plt
   145
   151
   163
   Cr
   1.0
   1.0
   1.3
   TCO2
   29
   25
   24
   28
   26
   26
   27
   Glucose
   81
   116
   88
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7 %, Eos:0.8
   %, Lactic Acid:1.1 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   .
   ##. Altered Mental Status: Ddx still includes intermittent seizure vs.
   intracranial disease (glioma vs toxo vs other) vs. delirium. This
   presentation seems to be acute on chronic AMS.  We must r/o viral
   meningitises/encephalitises.  Will f/u on LP labs, HSV PCR. Pt was
   noted to have auditory hallucinations which is interesting given the
   ?mass in his temporal lobe.
   Delerium:
          - continue ABX for PNA as below
          - IV Vanc(AM trough looked good, restarting at 1gm q24hr)[**Last Name (un) 3554**]
   trough tomorrow AM, levaquin
 d/c Cefepime
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 nothing back yet
          - all culture data is negative so far
          - continue Acyclovir
   Seizure:  No active seizure activity on EEG making status less likely,
   it is possible that he is intermittently seizing though.
            - Phosfenytoin loaded in anticipation of Neurosurgical
   procedure.  Will ask pharmacy about readjusting dosing given level of 5
   today.
   Intracranial Disease Process:
            - Neurosurgery consulted, likely to biopsy Tuesday (Dr. [**First Name (STitle) **],
   tumor board today, will discuss lack on contrast on MRI with team
   today.
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Increased WOB/Respiratory faillure:  Patient intubated for tachypnea,
   likely impending respiratory faillure.  Patient closer to hypercapneic
   baseline with current settings
             - would leave patient intubated pending bx tomorrow at this
   point, as would not have been ready to extubate this weekend.
   .
   Hyponatremia/ARF
 Urine lytes pre-renal, appearrs did not get IVF
   yesterday and all numbers bumped.  Bump in BUN relative to CRE, and
   hyponatremia, suspect pre-renal azotemia and hypovolemic hyponatremia.
   - Continue prn NS boluses
   - check urine lytes
   - Check PM lytes
   .
   ##. PNA: On review of prior films PNA appears to have progressed.
   During his hospitalization he was treated with IV Vanc, levaquin
   currently.  Will call lab for results after rounds.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.  d/c
d labetalol in setting
   of hypotension.
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance, ?PEG-tube in OR
   tomorrow
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   18 Gauge - [**2155-2-17**] 05:57 AM
   Prophylaxis:
   DVT: P.Boots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-18 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2155-2-17**]:
   - PET scan was negative for tumor, NSG is not going to biopsy
   - Had limited overall fluid status to 20mg IV lasix x3, started drip
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-2-16**] 10:30 AM
   Vancomycin - [**2155-2-17**] 08:25 AM
   Bactrim (SMX/TMP) - [**2155-2-18**] 12:00 AM
   Acyclovir - [**2155-2-18**] 12:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2155-2-17**] 11:00 AM
   Pantoprazole (Protonix) - [**2155-2-17**] 08:00 PM
   Furosemide (Lasix) - [**2155-2-18**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-18**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 95 (89 - 103) bpm
   BP: 109/75(89) {104/57(73) - 137/75(246)} mmHg
   RR: 23 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,993 mL
                                                                    837 mL
   PO:
             TF:
   IVF:
                                                                  2,993 mL
                                                                    837 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,220 mL
   Urine:
                                                                  3,240 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 297 (297 - 378) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   189 K/uL
   8.5 g/dL
   103 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   97 mEq/L
   126 mEq/L
   26.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2155-2-15**]  06:13 PM
                             [**2155-2-16**]  12:08 AM
                             [**2155-2-16**]  03:43 AM
                             [**2155-2-16**]  10:04 AM
                             [**2155-2-16**]  12:37 PM
                             [**2155-2-16**]  02:21 PM
                             [**2155-2-17**]  04:55 AM
                             [**2155-2-17**]  05:07 AM
                             [**2155-2-17**]  04:29 PM
                             [**2155-2-18**]  03:41 AM
   WBC
   9.4
   9.7
   7.7
   Hct
   27.8
   26.8
   26.4
   Plt
   151
   163
   189
   Cr
   1.0
   1.3
   1.3
   1.3
   TCO2
   25
   24
   28
   26
   26
   27
   Glucose
   116
   88
   144
   103
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, Lactic Acid:1.1 mmol/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ##  Increased WOB/Respiratory faillure:  Patient intubated for
   tachypnea, likely impending respiratory faillure.  Patient closer to
   hypercapneic baseline with current settings.   Will attempt to wean off
   the vent at this point, barriers to extubation include LOS fluid + 15
   liters.
   -Lasix drip
 with goal
([**3-13**]) liters per day
   - Presure support/wean as tolerated
   - Concentrate and d/c unnecessary antibiotics
   .
   ##. Unclear progress of Altered Mental Status: Ddx still includes
   intermittent seizure vs. intracranial disease (glioma vs toxo vs other)
   vs. delirium. This presentation seems to be acute on chronic AMS.  We
   must r/o viral meningitises/encephalitises.  Will f/u on LP labs, HSV
   PCR. Pt was noted to have auditory hallucinations which is interesting
   given the ?mass in his temporal lobe.
   Delerium:
          - abx should if commensurate with gram stain of sputum sent
   today ([**12-19**])
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 All negative
          - Serum cryptococcus is negative, toxo IgG, IgM - negative
          - all culture data is negative
          - Change Acyclovir to ppx dosing
   Seizure:  During our brief windows into his mental status, off sedation
   his mental status is HIGHLY variable, I have a STRONG clinical
   suspicion that he is intermittently seizing and would benefit form 24
   hour EEG monitoring.  Neuro help is greatly appreciated.
            - Phosfenytoin loaded in anticipation of Neurosurgical
   procedure.  Will ask pharmacy about readjusting dosing given level of 5
   today.   Would continue this as intermittent seizure is still likely
   Intracranial Disease Process:
            - No biopsy
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Hyponatremia/ARF
 Will tolerate hypontremia, and ARF as total body
   fluid overload is a barrier to extubation.  Lack of drop in sodium and
   change in BUN/CRE likely represent intravascular redistribution of
   third spaced fluids.  Would also question role of bactrim.
   - hold boluses
   - Check PM lytes
   - D/C bactrim, ppx otherwise
   .
   ##. PNA: along with prior hospital course has received an extended
   course of abx.  Would stop if todays sputum is negative.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - confirm various ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.  d/c
d labetalol in setting
   of hypotension.
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance, Will ask Dr. [**Last Name (STitle) 1750**] to
   discuss IR guided OG tube with family.
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   18 Gauge - [**2155-2-17**] 05:57 AM
   Prophylaxis:
   DVT: P.boots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-19 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family updated re: plan for EEG, diuresis before extubation
   - D/Ced phenytoin and bolused sedation in preparation for EEG
   - Lasix gtt titrated for goal 2L neg (on 10/hr)
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2155-2-16**] 10:30 AM
   Bactrim (SMX/TMP) - [**2155-2-18**] 08:03 AM
   Vancomycin - [**2155-2-18**] 09:00 AM
   Acyclovir - [**2155-2-19**] 05:30 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-18**] 08:00 PM
   Fentanyl - [**2155-2-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-19**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 124 (91 - 126) bpm
   BP: 144/79(102) {101/61(80) - 145/97(107)} mmHg
   RR: 29 (19 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,296 mL
                                                                    305 mL
   PO:
             TF:
   IVF:
                                                                  2,296 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                  1,440 mL
   Urine:
                                                                  4,140 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,844 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (309 - 431) mL
   PS : 10 cmH2O
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.37/47/128/26/1
   Ve: 13 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular:
   Nasally intubated, copious purulent and frothy secretions
   Awake
k you, you
re hurting me, do it kill me,
 not responding
   appropriately
   Tachycardic, no MGR
   Ventilator associated rhonchi, increasing BS.
   Labs / Radiology
   231 K/uL
   8.9 g/dL
   67 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   17 mg/dL
   93 mEq/L
   126 mEq/L
   26.6 %
   9.8 K/uL
        [image002.jpg]
                             [**2155-2-16**]  10:04 AM
                             [**2155-2-16**]  12:37 PM
                             [**2155-2-16**]  02:21 PM
                             [**2155-2-17**]  04:55 AM
                             [**2155-2-17**]  05:07 AM
                             [**2155-2-17**]  04:29 PM
                             [**2155-2-18**]  03:41 AM
                             [**2155-2-18**]  12:11 PM
                             [**2155-2-18**]  05:50 PM
                             [**2155-2-19**]  03:38 AM
   WBC
   9.7
   7.7
   9.8
   Hct
   26.8
   26.4
   26.6
   Plt
   163
   189
   231
   Cr
   1.3
   1.3
   1.3
   1.4
   TCO2
   28
   26
   26
   27
   27
   28
   Glucose
   88
   144
   103
   67
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, Lactic Acid:1.1 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ##  Increased WOB/Respiratory faillure:  Patient intubated for
   tachypnea, likely impending respiratory faillure.  Patient closer to
   hypercapneic baseline with current settings.   Will attempt to wean off
   the vent at this point, barriers to extubation include LOS fluid + 15
   liters.  Mr [**Known lastname 11322**]
s wishes are clearly that he does not want any of
   this, however his competence is almost definitely not there.  We are
   having trouble consolidated his/family wishes with medical
   appropriateness, and hope to clarify those goals today.
   -Lasix drip
 with goal
 as much as tolerated liters per day
   - Presure support/wean as tolerated
   - Extubate tomorrow, Dr. [**Last Name (STitle) 1750**] to discuss plan for patient if he does
   not fly, anticipate do not re-intubate as family and patient are
   unlikely to want extubation or PEG.
   .
   ##. Unclear progress of Altered Mental Status: Ddx still includes
   intermittent seizure vs. intracranial disease (glioma vs toxo vs other)
   vs. delirium. This presentation seems to be acute on chronic AMS.  We
   have r/o
d viral meningitises/encephalitises.  Pt was noted to have
   auditory hallucinations which is interesting given the ?mass in his
   temporal lobe.
   Seizure:  During our brief windows into his mental status, off sedation
   his mental status is HIGHLY variable, I have a STRONG clinical
   suspicion that he is intermittently seizing and would benefit form 24
   hour EEG monitoring.  Neuro help is greatly appreciated, they are
   trying to arrange either 20 minute or 24 hour.
            - Bolus sedation
            - re-load phosphenytoin after EEG
 1G Fosphenytoin once,
   check a peak after 2 hours, maintainence levels 150mg Q8 check a level
   in [**6-13**] days
   Delerium:
          - treatment dose abx should be d/c
d, no microorganisms on
   sputum
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 All negative
          - Serum cryptococcus is negative, toxo IgG, IgM - negative
          - all culture data is negative
          - Change Acyclovir to ppx dosing
   Intracranial Disease Process:
            - No biopsy
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Hyponatremia/ARF
 Will tolerate hypontremia, and ARF as total body
   fluid overload is a barrier to extubation.  Lack of drop in sodium and
   change in BUN/CRE likely represent intravascular redistribution of
   third spaced fluids.  Would also question role of bactrim.
   - hold boluses
   - Check urine lytes
   - Check PM lytes
   - D/C bactrim, ppx otherwise
   .
   ##. PNA: along with prior hospital course has received an extended
   course of abx.  Would stop if todays sputum is negative.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.
   - restart labetalol
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance, Will ask Dr. [**Last Name (STitle) 1750**] to
   discuss IR guided OG tube with family.
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   18 Gauge - [**2155-2-17**] 05:57 AM
   Prophylaxis:
   DVT: P.boots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-20 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - meeting with patient, family, Dr. [**Last Name (STitle) 1750**], and Dr. [**First Name (STitle) 116**] ->
   considering extubation tomorrow, with possible no re-intubation if
   fails
   - continued to aggressively diurese with electrolyte repletion
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-2-18**] 09:00 AM
   Bactrim (SMX/TMP) - [**2155-2-19**] 08:30 AM
   Acyclovir - [**2155-2-20**] 06:28 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-19**] 07:37 PM
   Midazolam (Versed) - [**2155-2-20**] 02:09 AM
   Fentanyl - [**2155-2-20**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 120 (114 - 128) bpm
   BP: 147/76(99) {98/56(70) - 153/100(113)} mmHg
   RR: 16 (12 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,527 mL
                                                                    368 mL
   PO:
             TF:
   IVF:
                                                                  1,527 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  1,560 mL
   Urine:
                                                                  4,810 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,283 mL
                                                                 -1,192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 352 (316 - 420) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.41/51/73.[**Numeric Identifier 607**]/28/5
   Ve: 7 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   8.5 g/dL
   68 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   19 mg/dL
   89 mEq/L
   127 mEq/L
   26.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2155-2-17**]  05:07 AM
                             [**2155-2-17**]  04:29 PM
                             [**2155-2-18**]  03:41 AM
                             [**2155-2-18**]  12:11 PM
                             [**2155-2-18**]  05:50 PM
                             [**2155-2-19**]  03:38 AM
                             [**2155-2-19**]  04:09 PM
                             [**2155-2-19**]  06:12 PM
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
   WBC
   7.7
   9.8
   9.3
   Hct
   26.4
   26.6
   26.1
   Plt
   189
   231
   232
   Cr
   1.3
   1.3
   1.4
   0.6
   1.5
   1.3
   TCO2
   27
   27
   28
   33
   Glucose
   144
   103
   67
   44
   85
   68
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, Lactic Acid:1.1 mmol/L, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   ##  Increased WOB/Respiratory faillure:  Patient intubated for
   tachypnea, likely impending respiratory faillure.  Patient closer to
   hypercapneic baseline with current settings.   Will attempt to wean off
   the vent at this point, barriers to extubation include LOS fluid + 15
   liters.  Mr [**Known lastname 11322**]
s wishes are clearly that he does not want any of
   this, however his competence is almost definitely not there.  We are
   having trouble consolidated his/family wishes with medical
   appropriateness, and hope to clarify those goals today.
   -Lasix drip
 with goal
 as much as tolerated liters per day
   - Presure support/wean as tolerated
   - Extubate tomorrow, Dr. [**Last Name (STitle) 1750**] to discuss plan for patient if he does
   not fly, anticipate do not re-intubate as family and patient are
   unlikely to want extubation or PEG.
   .
   ##. Unclear progress of Altered Mental Status: Ddx still includes
   intermittent seizure vs. intracranial disease (glioma vs toxo vs other)
   vs. delirium. This presentation seems to be acute on chronic AMS.  We
   have r/o
d viral meningitises/encephalitises.  Pt was noted to have
   auditory hallucinations which is interesting given the ?mass in his
   temporal lobe.
   Seizure:  During our brief windows into his mental status, off sedation
   his mental status is HIGHLY variable, I have a STRONG clinical
   suspicion that he is intermittently seizing and would benefit form 24
   hour EEG monitoring.  Neuro help is greatly appreciated, they are
   trying to arrange either 20 minute or 24 hour.
            - Bolus sedation
            - re-load phosphenytoin after EEG
 1G Fosphenytoin once,
   check a peak after 2 hours, maintainence levels 150mg Q8 check a level
   in [**6-13**] days
   Delerium:
          - treatment dose abx should be d/c
d, no microorganisms on
   sputum
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 All negative
          - Serum cryptococcus is negative, toxo IgG, IgM - negative
          - all culture data is negative
          - Change Acyclovir to ppx dosing
   Intracranial Disease Process:
            - No biopsy
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Hyponatremia/ARF
 Will tolerate hypontremia, and ARF as total body
   fluid overload is a barrier to extubation.  Lack of drop in sodium and
   change in BUN/CRE likely represent intravascular redistribution of
   third spaced fluids.  Would also question role of bactrim.
   - hold boluses
   - Check urine lytes
   - Check PM lytes
   - D/C bactrim, ppx otherwise
   .
   ##. PNA: along with prior hospital course has received an extended
   course of abx.  Would stop if todays sputum is negative.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.
   - restart labetalol
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance, Will ask Dr. [**Last Name (STitle) 1750**] to
   discuss IR guided OG tube with family.
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   20 Gauge - [**2155-2-18**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-21 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated, did extremely well
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2155-2-20**] 06:28 AM
   Bactrim (SMX/TMP) - [**2155-2-20**] 08:49 AM
   Cefipime - [**2155-2-20**] 02:48 PM
   Vancomycin - [**2155-2-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-2-20**] 01:15 PM
   Morphine Sulfate - [**2155-2-20**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 119 (117 - 128) bpm
   BP: 148/78(102) {106/57(74) - 152/78(102)} mmHg
   RR: 24 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,543 mL
                                                                    241 mL
   PO:
             TF:
   IVF:
                                                                  1,543 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  5,530 mL
                                                                      0 mL
   Urine:
                                                                  5,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,987 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 431 (431 - 440) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/55/118/37/12
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   8.7 g/dL
   81 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.0 mEq/L
   19 mg/dL
   87 mEq/L
   130 mEq/L
   27.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2155-2-18**]  03:41 AM
                             [**2155-2-18**]  12:11 PM
                             [**2155-2-18**]  05:50 PM
                             [**2155-2-19**]  03:38 AM
                             [**2155-2-19**]  04:09 PM
                             [**2155-2-19**]  06:12 PM
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
   WBC
   7.7
   9.8
   9.3
   9.6
   Hct
   26.4
   26.6
   26.1
   27.4
   Plt
   189
   231
   232
   262
   Cr
   1.3
   1.4
   0.6
   1.5
   1.3
   1.2
   TCO2
   27
   28
   33
   39
   Glucose
   103
   67
   44
   85
   68
   81
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ##  Increased WOB/Respiratory faillure:  Patient intubated for
   tachypnea, likely impending respiratory faillure.  Patient closer to
   hypercapneic baseline with current settings.   Will attempt to wean off
   the vent at this point, barriers to extubation include LOS fluid + 15
   liters.  Mr [**Known lastname 11322**]
s wishes are clearly that he does not want any of
   this, however his competence is almost definitely not there.  We are
   having trouble consolidated his/family wishes with medical
   appropriateness, and hope to clarify those goals today.
   -Lasix drip
 with goal
 as much as tolerated liters per day
   - Presure support/wean as tolerated
   - Extubate today
 with interventions if not doing well to be
   designated later.
   .
   ##. Unclear progress of Altered Mental Status: Ddx still includes
   intermittent seizure vs. intracranial disease (glioma vs toxo vs other)
   vs. delirium. This presentation seems to be acute on chronic AMS.  We
   have r/o
d viral meningitises/encephalitises.  Pt was noted to have
   auditory hallucinations which is interesting given the ?mass in his
   temporal lobe.
   Seizure:  During our brief windows into his mental status, off sedation
   his mental status is HIGHLY variable, I have a STRONG clinical
   suspicion that he is intermittently seizing and would benefit form 24
   hour EEG monitoring.  Neuro help is greatly appreciated, they are
   trying to arrange either 20 minute or 24 hour.
            - Bolus sedation
            - re-load phosphenytoin after EEG
 1G Fosphenytoin once,
   check a peak after 2 hours, maintainence levels 150mg Q8 check a level
   in [**6-13**] days
   Delerium:
          - treatment dose abx should be d/c
d, no microorganisms on
   sputum
   Encephalitis/Viral Meningitis:
          - awaiting results of HSV, HHV-6, JCV, EBV
 All negative
          - Serum cryptococcus is negative, toxo IgG, IgM - negative
          - all culture data is negative
          - Change Acyclovir to ppx dosing
   Intracranial Disease Process:
            - No biopsy
   Toxic Metabolic:
            - TSH is 7, likely to be sick euthyroid will check other
   levels
            - B12 WNL
            - RPR non-reactive
   .
   Hyponatremia/ARF
 Will tolerate hypontremia, and ARF as total body
   fluid overload is a barrier to extubation.  Lack of drop in sodium and
   change in BUN/CRE likely represent intravascular redistribution of
   third spaced fluids.  Would also question role of bactrim.
   - hold boluses
   - Check urine lytes
   - Check PM lytes
   - D/C bactrim, ppx otherwise
   .
   ##. PNA: along with prior hospital course has received an extended
   course of abx.  Would stop if todays sputum is negative.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - ppx meds
   .
   ##. HTN: Pt noted to have HTN with BP in 160s, HR 120s-130s. Baseline
   HR usually low 100s, likely due to adrenergic tone from agitation.
   ?autonomic dysregulation versus infection.
   - restart labetalol
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance, Will ask Dr. [**Last Name (STitle) 1750**] to
   discuss IR guided OG tube with family.
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Pending Mental Status improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   20 Gauge - [**2155-2-18**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-22 07:26:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - diuresing well and extubated, pC02 and bicarb started to climb again
   but improved mental status
   - started Keppra solution for sz ppx
   - taking thickened liquids
   - decreased lasix gtt overnight, will convert to IV bolus dosing in AM
   so can go to floor
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-2-21**] 03:00 AM
   Vancomycin - [**2155-2-21**] 07:45 AM
   Acyclovir - [**2155-2-21**] 07:45 AM
   Bactrim (SMX/TMP) - [**2155-2-21**] 09:00 AM
   Azithromycin - [**2155-2-21**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-21**] 07:56 PM
   Morphine Sulfate - [**2155-2-21**] 11:03 PM
   Lorazepam (Ativan) - [**2155-2-22**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   no pain this a.m., thirsty
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2155-2-22**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 115 (111 - 126) bpm
   BP: 106/54(73) {92/43(61) - 145/76(101)} mmHg
   RR: 10 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  3,151 mL
                                                                    295 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  3,031 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                    760 mL
   Urine:
                                                                  5,500 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,349 mL
                                                                   -465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/74/208/40/15
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   8.6 g/dL
   86 mg/dL
   1.1 mg/dL
   40 mEq/L
   3.7 mEq/L
   19 mg/dL
   88 mEq/L
   133 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2155-2-19**]  03:38 AM
                             [**2155-2-19**]  04:09 PM
                             [**2155-2-19**]  06:12 PM
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
   WBC
   9.8
   9.3
   9.6
   8.0
   Hct
   26.6
   26.1
   27.4
   27.9
   Plt
   [**Telephone/Fax (3) 11388**]43
   Cr
   1.4
   0.6
   1.5
   1.3
   1.2
   1.1
   1.1
   TCO2
   33
   39
   45
   Glucose
   67
   44
   85
   68
   81
   94
   86
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 HYPOXEMIA
 ALKALOSIS, METABOLIC
 TACHYCARDIA, OTHER
 TRANSPLANT, BONE MARROW (BMT)
 ALTERATION IN NUTRITION
 DELIRIUM / CONFUSION
 HYPOTHYROIDISM
 HYPERTENSION, BENIGN
 HYPOTENSION (NOT SHOCK)
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Assessment and Plan
   ##  Increased WOB/Respiratory faillure:  Patient looks very
   comfortable, no-longer tachypneic,  sat
ing extremely well.   Received
   total of lasix 240 mg IV yesterday.
   - will hold on further diuresis this A.M. given tachycardia, alkalosis,
   and exam.
   - plan for [**Hospital1 **] or daily dosing of lasix upon transfer
   .
   ##. ? Seizures: Unclear if patient was ever seizing, neurology raised
   the point that his recent bleed is a nidus, and would be a good
   indication for prophylactic antiseizure meds.
   - cont prophylaxis with Keppra
   .
   ## Metabolic alkalosis- [**3-11**] aggressive diuresis, will correct with KCl
   .
   ##   Hyponatremia/ARF
 Improved, may represent volume contraction from
   lasix or improved renal function with bactrim stopped.
   -follow
   .
   ##. ? Sinusitis: drainage resolved,   would stop antibiotics at this
   point.
   .
   ##. CML s/p transplant: complicated by chronic GVHD and bronchiolitis
   obliterans. Pt was on Prednisone taper as an outpatient, will continue
   on outpatient Prednisone dose.
   - ppx meds
   .
   ##. Tachycardia: Patient looks calm, did not admit to pain, may
   represent intravascular volume depletion.
   .
   ##. FEN: unable to pass OG tube [**3-11**] intolerance.  Pt will likely fail
   speech and swallow study, as family knows he was aspirating prior to
   admission
   .
   ##. CODE STATUS: full
   .
   ##. DISPOSITION: Floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 10:30 AM
   Arterial Line - [**2155-2-12**] 02:00 PM
   20 Gauge - [**2155-2-18**] 10:00 AM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  c/o to floor today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 11322**] and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 10265**]
s note and
   agree with his findings and plan of care.  Mr [**Known lastname 11322**] is well known
   to me and he looks quite good from a resp standpoint, now 36 hr post
   extubation.  The exact etiology of his resp failure event is not
   entirely clear. He lives on the brink of resp insufficiency due to what
   I believe is pulmonary GVHD and skin/chest wall GVHD.  However he had
   altered mental status and may have been fluid overloaded which
   contributed to his decline.  His mental status is now clear and he
   fairly relaxed and he
s on Keppra prophylaxis for his gliosis in CNS
   from prior XRT.  His lung disease and work of breathing has resulted in
   his retaining C02, but his pH is fine today. I would favor gentle low
   dose p.o. Ativan to allay dyspnea.  I would agree with continuing some
   lasix p.o., but would be careful to not overdiurese.  He should be
   ready to go to an oncology floor that knows him later today.  For now
   he remains full code.
   35 min spent in the care of this severely ill patient.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2155-2-22**] 15:12 ------